US04929613
2,5-Difluoro-4-(1,4-dioxaspiro[4.4]non-7-yl)-β-oxobenzene-propanoic acid, ethyl ester.
A solution of 16.4 g (0.2 mol) of monoethyl malonate, 0.1 g of 2,2'-bipyridyl and 175 ml of dry tetrahydrofuran was cooled to -35° under a dry nitrogen atmosphere and treated dropwise with 80 ml (0.2 mol) of a 2.5 M solution of n-butyl lithium in hexane. After the addition was complete, the reaction mixture was allowed to warm to -5° where it was treated dropwise with 80 ml (0.2 mol) of 2.5 M n-butyl lithium in hexane, titrating the final addition to a pale pink color which persisted for 5 minutes. The mixture was cooled to -78° and treated with a solution of 16.7 g (50 mmol) of 1-[[4-(1,4-dioxaspiro[4.4]non-7-yl)-2,5-difluorophenyl]carbonyl]-1H-imidazole in 100 ml of dry tetrahydrofuran. The suspension was stirred at -78° for 45 minutes, then allowed to warm to -35° and poured into a mixture of ice, water, and concentrated hydrochloric acid (17.0 ml-0.2 mole). The organic layer was separated, washed with water, 5% sodium bicarbonate, dilute hydrochloric acid, and water. After drying over magnesium sulfate, the solvent was removed in vacuo to give 13.8 g of the title compound.

reactant | monoethyl malonate | 0.2 mol, 16.4 g | C(CC(=O)[O-])(=O)OCC
reactant | n-butyl lithium | C(CCC)[Li]
reactant | n-butyl lithium | 0.2 mol, 2.5 M, 80 ml | C(CCC)[Li]
reactant | 1-[[4-(1,4-dioxaspiro[4.4]non-7-yl)-2,5-difluorophenyl]carbonyl]-1H-imidazole | 50 mmol, 16.7 g | O1CCOC12CC(CC2)C2=CC(=C(C=C2F)C(=O)N2C=NC=C2)F | C17H16F2N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | 2,2'-bipyridyl | 0.1 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2,5-Difluoro-4-(1,4-dioxaspiro[4.4]non-7-yl)-β-oxobenzene-propanoic acid, ethyl ester | 13.8 g | FC1=C(C=C(C(=C1)C1CC2(OCCO2)CC1)F)C(CC(=O)OCC)=O | C18H20F2O5
